US08609647B2
(1) Piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-(3,3-difluoro-allyl)ester
To a solution of piperidine-1,3-dicarboxylic acid 1-tert-butyl ester (30.0 g) in N,N-dimethylformamide (300 ml) were added potassium carbonate (36.2 g) and 3-bromo-3,3-difluoropropene (16 ml), and the mixture was stirred at 60° C. for 4.5 hours. To the reaction mixture was added water, and the mixture was extracted with n-hexane/ethyl acetate (1/1) solution. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=10/1) to give the titled compound (33.5 g).

reactant | piperidine-1,3-dicarboxylic acid 1-tert-butyl ester | 30.0 g | C(C)(C)(C)OC(=O)N1CC(CCC1)C(=O)O | C11H19NO4
reactant | potassium carbonate | 36.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromo-3,3-difluoropropene | 16 ml | BrC(C=C)(F)F | C3H3BrF2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | Piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-(3,3-difluoro-allyl)ester | 33.5 g | FC(=CCOC(=O)C1CN(CCC1)C(=O)OC(C)(C)C)F | C14H21F2NO4
